Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cipro Cystitis / Naprosyn / Lipitor / Codeine / Mavik
 
Attending: ___.
 
Chief Complaint:
Hypoxia
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with h/o HTN, ___ esophagus, prior atrial fibrillation 
admitted for atrial fibrillation with RVR.  
Per patient's daughter, about 4 days PTA, patient complained of 
a heaviness in her chest. Her daughter wanted to take her to the 
doctor, but she refused. yesterday her daughter noted that she 
was falling asleep frequently, was difficult to arouse and had 
poor color. She checked her pulse and it was fast and variable. 
Also check an O2 sat, an it was in the ___ on room air. Called 
PCP ___, instructed them to go to ER. Went to ___. ___ CXR 
demonstrated cardiomegaly w/ interstitial pulmonary edema and B 
pleural effusion, bibasilar opacities are likely atelectasis. 
Received furosemide, diltiazem, and metoprolol prior to 
transfer. OSH UA w/ 1+ ___, transferred w/ micro pending.  
In ED here initial VS were 97.6 80 133/79 16 98%. EKG showed a 
fib BNP 2376. CXR showed b/l effusions. Admitted to medicine for 
atrial fibrillation with RVR. VS on transfer 97.1 po, 112, 
127/92.  
On arrival to the floor, patient is comfortable, and pleasantly 
confused. "I don't feel right"  
ROS:  
- fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria. 

 
Past Medical History:
- paroxysmal afib  
- dementia  
- HTN  
- ___ esophagus  
- s/p cholecystectomy  
 

 
Social History:
___
Family History:
N/C
 
Physical Exam:
ADMISSION EXAM:
VS - Temp 97.7 F, BP 137/78, HR 120, R 20, O2-sat 93% RA  
GENERAL - pleasant female, NAD  
HEENT - NC/AT, PERRLA, EOMI, sclerae anicteric, MMM, OP clear  
NECK - supple, no thyromegaly, JVP > 10cm, no carotid bruits  
LUNGS - dull to percussion ___ way up b/l  
HEART - irregularly irregular  
ABDOMEN - NABS, soft/NT/ND, no masses or HSM, no 
rebound/guarding  
EXTREMITIES - WWP, no c/c/e, 2+ peripheral pulses (radials, DPs) 
 
SKIN - no rashes or lesions  
LYMPH - no cervical, axillary, or inguinal LAD  
NEURO - awake, oriented to self only.  

DISCHARGE EXAM:
98, 123/61, 58, 18, 97  
Gen Well NAD, AOx2  
OP clear EOMI, PERRLA  
S1 S2 irregularly irregular, no murmurs, tachycardic, JVP noted 
at 8cm above the RA while sitting straight up, no peripherial 
edema  
Diminished breath sounds bilaterally in the lower ___ of the 
lungs with crackels at the top of the effusion. good airation 
otherwise  
Soft non-tender  

 
Pertinent Results:
ADMISSION LABS:
___ 11:15PM BLOOD WBC-6.9 RBC-3.72* Hgb-11.1* Hct-36.2 
MCV-97# MCH-29.8# MCHC-30.6* RDW-16.7* Plt ___
___ 11:15PM BLOOD ___ PTT-28.5 ___
___ 11:15PM BLOOD Glucose-117* UreaN-19 Creat-1.0 Na-145 
K-3.6 Cl-110* HCO3-24 AnGap-15
___ 11:15PM BLOOD CK-MB-8 proBNP-2376*
___ 11:15PM BLOOD cTropnT-<0.01
___ 05:38PM BLOOD CK-MB-6 cTropnT-<0.01
___ 05:38PM BLOOD Calcium-8.8 Phos-3.7 Mg-1.9
.
PERTINENT:
___ 05:38PM BLOOD TSH-1.7
___ 05:38PM BLOOD T4-8.6
.
DISCHARGE LABS:
___ 06:20AM BLOOD WBC-5.0 RBC-3.34* Hgb-10.3* Hct-31.9* 
MCV-95 MCH-30.9 MCHC-32.4 RDW-16.4* Plt ___
___ 07:37AM BLOOD Glucose-84 UreaN-16 Creat-1.0 Na-144 
K-4.2 Cl-112* HCO3-23 AnGap-13
___ 07:37AM BLOOD Calcium-8.7 Phos-3.7 Mg-2.0
EKG (ADMISSION):
Atrial fibrillation with rapid ventricular response and 
ventricular premature beat. Left axis deviation. Consider left 
anterior fascicular block.  QS complexes in leads V1-V3 
suggesting an anteroseptal myocardial infarction of 
indeterminate age. Non-specific inferolateral ST-T wave 
abnormalities. Compared to the previous tracing of ___ 
atrial fibrillation is new, the septal infarct is new.
ECHO:
The left atrium is moderately dilated. There is moderate 
symmetric left ventricular hypertrophy. The left ventricular 
cavity size is normal. Overall left ventricular systolic 
function is normal (LVEF 60-70%). There is considerable 
beat-to-beat variability of the left ventricular ejection 
fraction due to an irregular rhythm/premature beats. Tissue 
Doppler imaging suggests an increased left ventricular filling 
pressure (PCWP>18mmHg). The right ventricular free wall is 
hypertrophied. The right ventricular cavity is dilated with 
borderline normal free wall function. The ascending aorta is 
mildly dilated. There are focal calcifications in the aortic 
arch. The aortic valve leaflets are moderately thickened (the 
noncoronary cusp is immobile; the left and right cusps display 
normal systolic excursion). There is mild aortic valve stenosis 
(valve area 1.2 cm2). Mild (1+) aortic regurgitation is seen. 
The mitral valve leaflets are mildly thickened. There is no 
mitral valve prolapse. Mild (1+) mitral regurgitation is seen. 
The tricuspid valve leaflets are mildly thickened. There is no 
pericardial effusion. 

Compared with the findings of the prior report (images 
unavailable for review) of ___, mild aortic 
stenosis is now present.  
EKG ___:  Atrial fibrillation with a controlled ventricular 
response. Possible left anterior fascicular block. Probable 
septal infartion of indeterminate age. Non-specific 
inferolateral T wave abnormalities. Compared to tracing #1  of 
___ the QRS change in lead V4 could be due to variability in 
lead placement. The ventricular premature beat is absent. 
CXR ___: 
1. Limited study due to patient positioning and low lung volumes 
demonstrate evidence of mild pulmonary edema as well as 
bibasilar opacities suggestive of atelectasis and pleural 
effusions.  Pneumonia must be excluded in the proper clinical 
setting. 
2. Lucent focus adjacent to the right heart border may be 
representative of a herniated loop of bowel.  
CXR ___:
AP and lateral radiographs of the chest were obtained.  
Pulmonary edema has improved if not completely resolved.  
Small-to-moderate right greater than left pleural effusions are 
unchanged.  Cardiomegaly persists. 
  
IMPRESSION:  Improvement to resolution of pulmonary edema with 
persistent 
right greater than left pleural effusions. 
 
Brief Hospital Course:
ASSESSMENT & PLAN:  ___ yo with alzheimers dementia who presented 
with acute onset shortness of breath and found to have afib with 
RVR.  Patient was rate controlled with diltiazem and also 
treated for a UTI with resolution of her symptoms.
.
# Atrial Fibillation with RVR: Patient was found to be in atrial 
fibrilation with a ventricualr rate to 140s and evidence of 
pulmonary edema on chest xray.  Prior to transfer to ___ the 
patient was attempted at rate control with metoprolol without 
effect and was transfered on diltizaem.  He was continued on 
diltiazem while inpatient and had her dose titrated to a 
dominant heart rate of 60 to 80 BPMs. This was achieved using a 
daily dose of 240 mg and she was converted to long acting 
formulation of 240 mg with sustained effect.  Patient had a 
CHADS2 score of 3 (given unclear history of a past TIA), but the 
decision to anticoagulate was deffered to the outpatient setting 
given the unknown duration of afib and her history of frequent 
falls at home.  She was discharged on aspirin 81 mg daily. A 
cardiology follow up appointment was scheduled for the patient 
prior to discharge to rehab.  
.
# ACUTE DIASTOLIC HEART FAILURE:  Patient was noted to have 
pulmonary edema on chest xray causing hypoxia which was felt 
secondary to rapid ventricular rate and poor diastolic filling 
and therefore no indication for ace inhibitors.  The patient was 
rate controlled as above and diuresed to a presumed dry weight 
of 114.5 lbs.  She was able to ambulate with out desaturations 
at the time of discharge.  Interval chest xray showed 
improvement in pulmonary edema without complete resolution of 
her pleural effusions.  Repeat CXR is advised in ___ weeks to 
assess for interval change. It was decided not to perform a 
thoracentesis inpatient as the patient had some degree of acute 
on chronic encephalopathy from dementia.
.
# Hypoxia: Was felt secondary to acute congestive heart failure. 
 Improved with diuresis and rate control.  Patient able to 
ambulate on room air at the time of discharge.
.
#UTI:  patient was found to have a positive UA and negative 
Urine culture though may have had antibiotic exposure prior to 
collection of urine culture.  Initially complained of urinary 
frequency and was treated with ceftriaxone and converted to PO 
bactrim 1 tab DS to complete a 5 day course scheduled to end on 
___.
.
#DEMENTIA:  patient with established cognative impairment 
related to her dementia, daughter raised concerns for patient's 
safety at home as now appears to be requiring 24 hour care.  Her 
mental status was stable while inpatient though occasionally 
aggitated responding to redirection.  A cognative neurology 
appointment was scheduled for the patient for further 
evaluation.
.
TRANSLATIONAL ISSUES:
- Patient had Chest x-ray performed on ___ after diuresis 
as above. Pleural effusions (right > left) still remained. 
Repeat CXR is advised in ___ weeks to assess for interval 
change. .
- Cognitive neurology evaluation has been obtained as an 
outpatient
- Anti-coagulation for atrial fibrillation (e.g. initiation of 
warfarin) should be discussed as outpatient. A discussion 
regarding the risks and benefits were presented (e.g. bleeding 
on anti-coagulation, stroke or other embolic issues if not 
taking systemic anti-coagulation). Family prefers to discuss as 
outpatient
-Discharge weight 114.5 lbs

 
Medications on Admission:
Aspirin 81 mg daily
omeprazole 20 mg daily
 
Discharge Medications:
1. Diltiazem Extended-Release 240 mg PO DAILY 
hold for SBP < 100 or HR < 60  
RX *diltiazem HCl 240 mg 1 Capsule(s) by mouth daily Disp #*30 
Capsule Refills:*2
2. Omeprazole 20 mg PO DAILY 
3. Sulfameth/Trimethoprim DS 1 TAB PO BID 
day 1 abx ___ 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 1 Tablet(s) by 
mouth twice a day Disp #*5 Tablet Refills:*0
4. Aspirin 81 mg PO DAILY 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY 
-atrial fibrillation with rapid ventricular response
-acute congestive heart failure
-pulmonary edema with hypoxia
-urinary tract infection
-delirium

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a plseaure taking care of you while you were in the 
hospital.  You were admitted for evaluation of your shortness of 
breath and found to be in an abnormal heart rythym called atrial 
fibrillation which caused fluid to accumulate in your lungs.  
You were started on a medication called diltiazem to control 
your heart rate.  You were also treated for a urinary tract 
infection and will need to continue to take antibiotics for the 
next few days.  Our occupational therapists felt that you 
benefit from some time at a rehab hospital.
 
Followup Instructions:
___